US06355611B1
Step 5: N-(cyclohexylglycyl-glutaminyl-serinyl)leucine benzyl ester hydrochloride (SEQ.ID.NO.: 2)
The N-(cyclohexylglycyl-glutaminyl-serinyl)leucine benzyl ester (SEQ ID NO:3) hydrochloride (1.478 Kg) was slurried in methanol (14.8 L) at room temperature and the batch stirred for 1 hr. Ethyl acetate (29.6 L) was added over 30 minutes, the batch was cooled to 0-5° C. and aged for an hour. The solid collected by filtration, washed with cold (0-5° C.) methanol/ethyl acetate (4.5 L, 1:2), dried on the filter for 45 minutes, under nitrogen, and then dried under vacuum, at 40° C. This material was then utilized in subsequent reactions.

reactant | N-(cyclohexylglycyl-glutaminyl-serinyl)leucine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC(CNC1CCCCC1)=O)CCC(N)=O)=O)CO)=O)CC(C)C)=O | C29H45N5O7
reactant | hydrochloride | 1.478 Kg | Cl | ClH
reactant | Ethyl acetate | 29.6 L | C(C)(=O)OCC | C4H8O2
solvent | methanol | 14.8 L | CO | CH4O
product | N-(cyclohexylglycyl-glutaminyl-serinyl)leucine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC(CNC1CCCCC1)=O)CCC(N)=O)=O)CO)=O)CC(C)C)=O | InChI=1S/C29H45N5O7.ClH/c1-19(2)15-23(29(40)41-18-20-9-5-3-6-10-20)33-28(39)24(17-35)34-27(38)22(13-14-25(30)36)32-26(37)16-31-21-11-7-4-8-12-21;/h3,5-6,9-10,19,21-24,31,35H,4,7-8,11-18H2,1-2H3,(H2,30,36)(H,32,37)(H,33,39)(H,34,38);1H/t22-,23-,24-;/m0./s1
